US07767680B2
4-(2-Fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid ethyl ester was dissolved in a mixture of methanol (150 mL) and a 33% aqueous NaOH solution (150 mL). The mixture was heated at reflux for 3 hours, and allowed to cool to room temperature overnight. The solution was concentrated to ca. half the volume under reduced pressure. The resulting suspension was adjusted to pH 7 with a 1-5N aqueous HCl solution. The formed precipitate was filtered off, washed with water (3×), and air-dried at 45° C. overnight to give 4-(2-fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid as a tan solid (9.051 g, 29.8 mmol, 74% over 3 steps).

reactant | 4-(2-Fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)N1CCOCC1)C1=C(C=CC=C1)F | C17H18FN3O3
reactant | NaOH | 150 mL | [OH-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 4-(2-fluoro-phenyl)-2-morpholin-4-yl-pyrimidine-5-carboxylic acid | FC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)O)N1CCOCC1 | C15H14FN3O3
